US05990337
120 g (2.26 mol) of acrylonitrile are added dropwise over 12 hours at 160° C. to 324 g (3.0 mol) of methanephosphonous monoethylester with vigorous stirring and under an inert-gas atmosphere. The excess monoester is then distilled off at 0.4 mbar. The residue is distilled using a Vigreux column at 142-143° C. at 0.4 mbar, giving 330 g of ethyl 2-cyanoethylmethylphosphinate (refractive index nD22 : 1.4554). This corresponds to a yield of 90% of theory.

reactant | acrylonitrile | 2.26 mol, 120 g | C(C=C)#N | C3H3N
reactant | methanephosphonous monoethylester | 3.0 mol | C(C)OP(O)C | C3H9O2P
product | ethyl 2-cyanoethylmethylphosphinate | 330 g, yield of 90% | C(#N)CCP(OCC)(=O)C | C6H12NO2P
